US05565592
Then 1.61 g of the bridged ligand having a vinyl terminated branch, i.e. 5-cyclopentadienyl-5-(9-fluorenyl)-1-hexene, was dissolved in 10 mL of chiorodimethylsilane at room temperature. Then approximately 1 mL of hexachloroplatinic acid was added and a reaction mixture stirred overnight at room temperature. The solvent was then evaporated in a vacuum. A white solid was recovered which was concluded to be 1-chlorodimethyl-silyl-5-cyclopentadienyl-5-(9-fluorenyl)-hexane. A portion of this material was then contacted with silica gel (Merck No. 7734) the process involved contacting 2 g of the silica gel dried as explained in Example IV and 1.56 g of the 1-chlorodimethyl-silyl-5-cyclopentadienyl-5-(9-fluorenyl)-hexane in a manner analogous o that used in the analogous step in Example IV. Then a supported zirconocene was prepared by reacting 1.74 g of that solid with 0.8 g of zirconium tetrachloride using a technique of the general type disclosed in Example IV. The resulting supported metallocene will be referred to herein as catalyst 34A.

reactant | 5-cyclopentadienyl-5-(9-fluorenyl)-1-hexene | C1(C=CC=C1)C(CCC=C)(C)C1C2=CC=CC=C2C=2C=CC=CC12 | C24H24
reactant | zirconium tetrachloride | 0.8 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | chiorodimethylsilane | 10 mL | Cl[SiH](C)C | C2H7ClSi
catalyst | hexachloroplatinic acid | approximately 1 mL | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | zirconocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
